US04975438
3,3-bis(4-Methoxyphenyl)-2-propenal
The compound was prepared according to the procedure described in Example 84 except that the reaction time was extended to 68 hours. The following reagents were used: 4,4'-dimethoxybenzophenone (24.2 g), diisopropylamine (32.2 mL) 1.55M n-butyl lithium in hexane (148 mL). acetaldehyde N-tert-butylimine (14.75 mL), diethyl chlorophosphonate (16.6 mL) and tetrahydrofurane (200 mL). The usual work up furnished 25.6 g of an orange oil which was crystallized from ether-hexane to give 22.7 g of 3,3-bis(4-dimethoxyphenyl)-2-propenal, as a yellow solid, mp 55°-57° C. The analytical specimen, mp 56°-57° C., crystallized from the same solvent system had been prepared in a previous experiment. Anal. Calculated for C17H16O3 : C, 76.10; H. 6.01 Found: C, 76.29: H, 6.29.

reactant | 4,4'-dimethoxybenzophenone | 24.2 g | COC1=CC=C(C(=O)C2=CC=C(C=C2)OC)C=C1 | C15H14O3
reactant | diisopropylamine | 1.55M, 32.2 mL | C(C)(C)NC(C)C | C6H15N
reactant | acetaldehyde N-tert-butylimine | 14.75 mL | C(C)(C)(C)N=CC | C6H13N
reactant | diethyl chlorophosphonate | 16.6 mL | ClP(OCC)(OCC)=O | C4H10ClO3P
solvent | hexane | 148 mL | CCCCCC | C6H14
solvent | tetrahydrofurane | 200 mL | O1CCCC1 | C4H8O
product | 3,3-bis(4-Methoxyphenyl)-2-propenal | 25.6 g | COC1=CC=C(C=C1)C(=CC=O)C1=CC=C(C=C1)OC | C17H16O3
